US09371320B2
G) 4-methoxy-3-(4-(morpholin-4-yl)phenyl)-1H-pyrazolo[4,3-c]pyridine
To a solution of 1-benzyl-4-methoxy-3-(4-(morpholin-4-yl)phenyl)-1H-pyrazolo[4,3-c]pyridine (0.68 g) in DMSO/THF (10 mL/2.5 mL) was added potassium tert-butoxide (1.90 g) under ice-cooling. The reaction mixture was stirred at room temperature for 5 hr. The reaction mixture was added to saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/petroleum ether) to give the title compound (0.37 g).

reactant | 1-benzyl-4-methoxy-3-(4-(morpholin-4-yl)phenyl)-1H-pyrazolo[4,3-c]pyridine | 0.68 g | C(C1=CC=CC=C1)N1N=C(C=2C(=NC=CC21)OC)C2=CC=C(C=C2)N2CCOCC2 | C24H24N4O2
reactant | potassium tert-butoxide | 1.90 g | CC(C)([O-])C.[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMSO THF | 10 mL | CS(=O)C.C1CCOC1
product | 4-methoxy-3-(4-(morpholin-4-yl)phenyl)-1H-pyrazolo[4,3-c]pyridine | 0.37 g | COC1=NC=CC2=C1C(=NN2)C2=CC=C(C=C2)N2CCOCC2 | C17H18N4O2
